US05776959
Preparation of 1,3-Diphenylmethyl-2-piperidinone
1-Phenylmethyl-2-piperidinone (See: Yamaguchi M, Hirao I (1985) "A direct synthesis of [(tert-butoxycarbonyl)methylidene]-azacycloalkanes from N-alkyllactams" J. Org. Chem., 50, 1975-1977) (3.40 g, 18 mmol) was reacted with benzyl bromide (4.84 g, 28.3 mmol) in the presence of lithium diisopropylamide (prepared by treating diisopropylamine (2.73 g, 27 mmol) with butyllithium in hexanes (2.5M, 10.3 mL, 25.7 mmol)) in THF (45 mL) and HMPA (2.7 mL, 15.5 mmol) as described above in the preparation of Example 7. After the addition of benzyl bromide, the reaction mixture was stirred for 2 h at -78° C., and then quenched with saturated NH4Cl (50 mL). The reaction mixture was extracted with ether (3×40 mL) and the combined ether extract washed with brine (40 mL) and dried over MgSO4. The solvent was removed in vacuo, and the residue (8.40 g) thus obtained, was chromatographed over silica gel (hexanes-CHCl3 -EtOAC, 15:4:1 and then 7:2:1) to give the product lactam (3.14 g, 63%) as a colorless solid: mp 94°-95° C. (CH2Cl2 -hexanes).

reactant | 1-Phenylmethyl-2-piperidinone | C1(=CC=CC=C1)CN1C(CCCC1)=O | C12H15NO
reactant | benzyl bromide | 28.3 mmol, 4.84 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | lithium diisopropylamide | 27 mmol, 2.5M, 10.3 mL, 2.73 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | HMPA | 15.5 mmol, 2.7 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | 1,3-Diphenylmethyl-2-piperidinone | 8.40 g | C1(=CC=CC=C1)CN1C(C(CCC1)CC1=CC=CC=C1)=O | C19H21NO
